US09085570B2
A solution of methyl 4-(4-((4-((dimethylamino)methyl)phenylsulfonyl)methyl)-5-methyloxazol-2-yl)benzoate (900 mg, 1.56 mmol, 1.00 equiv, 74%) in 6N hydrochloric acid (25 mL) was refluxed overnight. The resulting solution cooled to room temperature and then diluted with 30 mL of water/ice. The solid was removed by filtration out and washed with 3×20 mL of water. The filtrate and washings were combined and concentrated in vacuum to give 0.6 g (84%) of 4-(4-((4-((dimethylamino)methyl)phenylsulfonyl)methyl)-5-methyloxazol-2-yl)benzoic acid hydrochloride as a yellow solid. LC-MS: (ES, m/z): 415 [M+H]+, 395, 120.

reactant | methyl 4-(4-((4-((dimethylamino)methyl)phenylsulfonyl)methyl)-5-methyloxazol-2-yl)benzoate | 1.56 mmol, 900 mg, 1.00 equiv | CN(C)CC1=CC=C(C=C1)S(=O)(=O)CC=1N=C(OC1C)C1=CC=C(C(=O)OC)C=C1 | C22H24N2O5S
reactant | hydrochloric acid | 6N, 25 mL | Cl | ClH
product | 4-(4-((4-((dimethylamino)methyl)phenylsulfonyl)methyl)-5-methyloxazol-2-yl)benzoic acid hydrochloride | 0.6 g, 84% | Cl.CN(C)CC1=CC=C(C=C1)S(=O)(=O)CC=1N=C(OC1C)C1=CC=C(C(=O)O)C=C1 | InChI=1S/C21H22N2O5S.ClH/c1-14-19(22-20(28-14)16-6-8-17(9-7-16)21(24)25)13-29(26,27)18-10-4-15(5-11-18)12-23(2)3;/h4-11H,12-13H2,1-3H3,(H,24,25);1H
